US08017602B2
Step iv) 3-(3-(2-Methyl-2H-tetrazol-5-yl)phenethoxy)propanoic acid
A mixture of tert-butyl 3-(3-(2-methyl-2H-tetrazol-5-yl)phenethoxy)propanoate [Example 7, Step iii)] (500 mg), DCM (4 mL) and TFA (4 mL) was stirred at 25° C. for 30 min and concentrated under vacuum to give the subtitled compound as a gum (612 mg). 1H NMR (300 MHz, CDCl3) δ 8.05 (s, 1H), 7.93 (dt, J=7.8, 1.4 Hz, 1H), 7.41 (t, J=7.6 Hz, 1H), 7.31 (dt, J=1.4 and 7.7 Hz, 1H), 4.42 (s, 3H), 3.78 (t, J=5.9 Hz, 2H), 3.77 (t, J=6.3 Hz, 2H), 2.97 (t, J=6.3 Hz, 2H), 2.64 (t, J=6.1 Hz, 2H).

reactant | tert-butyl 3-(3-(2-methyl-2H-tetrazol-5-yl)phenethoxy)propanoate | CN1N=C(N=N1)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C17H24N4O3
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-(2-Methyl-2H-tetrazol-5-yl)phenethoxy)propanoic acid | 612 mg | CN1N=C(N=N1)C=1C=C(CCOCCC(=O)O)C=CC1 | C13H16N4O3
